2196-04-23 06:34:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -called for resp distress with desat to 80s when flat on back, improved
   with repositioning and nebs
   - this morning feeling more confused and
out of it
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2196-4-22**] 08:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-4-23**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 121 (109 - 128) bpm
   BP: 95/51(62) {90/44(58) - 128/72(87)} mmHg
   RR: 22 (19 - 29) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
                  Total In:
                                                                     60 mL
                                                                     30 mL
   PO:
                                                                     60 mL
                                                                     30 mL
   TF:
   IVF:
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    490 mL
   Urine:
                                                                  1,310 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,250 mL
                                                                   -460 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ////
   Physical Examination
   Gen: obese female in no acute distress. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple; JVP difficult to assess given patient's body habitus
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. harsh 3/6 systolic murmur heard best at the LUSB. [**4-8**]
   systolic murmur heard also at the apex. No thrills, lifts. No S3 or
   S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. scattered crackles bilaterally and
   throughout.
   Abd: obese, Soft, NTND. No HSM or tenderness.  No abdominial bruits.
   Ext: No c/c/e. No femoral bruits.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
        [image002.jpg]
   Assessment and Plan
   63yo female with multiple medical problems including morbid obesity,
   obstructive sleep apnea, and COPD on 3L home O2 was admitted from the
   ED with shortness of breath likely related to CHF exacerbation.
   1. Shortness of Breath
   Etiology of her shortness of breath is likely multifactorial.
   Differential diagnosis includes most likely CHF exacerbation worsened
   with her afib with RVR.  Additional factors likely worsening this are
   obesity hypoventilation, obstructive sleep apnea, and pulmonary
   hypertension. Pulmonary embolism however is also high on the
   differential given her history of atrial fibrillation and DVT.
   - continue to diurese her and aim for being 1-2L negative today with
   the consideration of a lasix gtt for closer monitoring
   - aim for improved rate control with the addition of a diltiazem drip
   - wean O2 as tolerated and would aim for O2 sat > 92-94%
   - if O2 does not improve with diuresis +/- steroids, would consider CTA
   to evaluate for PE
   2. Atrial Fibrillation with RVR
   Patient has elevated heart rate and this is certainly contributing to
   her worsened CHF.
   - continue prn diltiazem for rate control and consider diltiazem gtt if
   heart rate control continues to be difficult to control
   - patient not an anticoagulation candidate due to history of GI bleed
   3. COPD
   Patient has a history of COPD and is on 3L home O2.
   - continue home regimen of spiriva, fluticasone-salmeterol,
   montelukast, theophylline, and [**Doctor First Name **]
   - consider adding steroids and azithromycin if symptoms do not improve
   with diuresis
   - will discontinue theophylline for now due to concern for multiple
   drug interactions and increase nebulizer treatments
   4. Hypertension
   Patient has a history of hypertension in the past, although she is
   currently borderline hypotensive. Etiology of her hypotension is
   unclear, although likely related to her atrial fibrillation.
   - hold antihypertensive agents for now
   - will try rate control with diltiazem drip
   5. Anemia
   Stable
   - continue iron supplementation
   ICU Care
   Nutrition: Cardiac diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-4-22**] 05:11 PM
   - try to obtain additional peripheral IVs
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:
   VAP:
   Comments: bowel regimen
   Communication:  Comments: Patient; HCP [**Name (NI) 8508**] [**Name (NI) 8509**] [**Telephone/Fax (1) 8510**]
   Code status: Full code
   Disposition: ICU for now for control of her heart rate and blood
   pressure
   ------ Protected Section ------
   Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
                   History obtained from Patient
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 5 mg/hour
   Diltiazem - 5 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2196-4-22**] 08:55 PM
   Heparin Sodium (Prophylaxis) - [**2196-4-23**] 09:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2196-4-23**] 10:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98.1
   HR: 116 (109 - 128) bpm
   BP: 93/61(67) {90/44(58) - 128/72(87)} mmHg
   RR: 24 (19 - 29) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 64 Inch
             Total In:
                                                                     60 mL
                                                                    279 mL
   PO:
                                                                     60 mL
                                                                    270 mL
   TF:
   IVF:
   9 mL
   Blood products:
   Total out:
                                                                  1,310 mL
                                                                    587 mL
   Urine:
                                                                  1,310 mL
                                                                    587 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,250 mL
                                                                   -308 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///46/
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant), No(t) S3, No(t) S4,
   (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : bilateral, Bronchial:
   bilateral)
   Abdominal: Bowel sounds present, Obese
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.5 g/dL
   166 K/uL
   95 mg/dL
   1.0 mg/dL
   46 mEq/L
   5.1 mEq/L
   18 mg/dL
   97 mEq/L
   145 mEq/L
   28.6 %
   4.5 K/uL
        [image002.jpg]
                             [**2196-4-23**]  06:03 AM
   WBC
   4.5
   Hct
   28.6
   Plt
   166
   Cr
   1.0
   Glucose
   95
   Other labs: PT / PTT / INR:13.8/26.8/1.2, Ca++:8.3 mg/dL, Mg++:2.1
   mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
    - will continue inhalers, but stop theophylline PO given rapid AF
    - consider pulmonary consultation
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - achieve more brisk diuresis given volume overload
 ATRIAL FIBRILLATION
    - rate control with diltiazem gtt
   -  no cardioversion until we establish safety of chronic
   anticoagulation (see below)
 H/O GI BLEEDING
    - last admission = 6 units of PRBC transfusiuon [**3-7**] presumed UGIG.
   NEver scoped
    - GI consult - assess long-term risk for bleeding
    - perhaps we could sedate her (with help from anesthesia), then get
   EGD and then (if no obvious source of bleeding), proceed with
   TEE/cardioversion and anticoagulation
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2196-4-23**] 09:00 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 404**], MD
   on:[**2196-4-23**] 10:31 ------

2196-04-24 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2196-4-23**] 11:00 AM
   -Lasix gtt uptitrated from 5 to 20 with no relief in symptoms or oxygen
   requirement
   -Had cough productive of green sputum, ordered sputum cx
   (contaminated)->ordered repeat cx
   -ABG 7.35/85/68/49 (Chronic resp acidosis and meta alk)
   -Per GI: Would need to go to [**Hospital Ward Name 575**] for EGD/[**Last Name (un) 236**] on monday
   -Diltiazem gtt started with improved rate control 90s
   -IV team obtained 2 more PIVs
   -Symptoms not improved despite negative 2L so ordered prednisone burst
   60mg x 3 days and azithro for COPD  exacerbation given sputum
   production
   S: SOB improved today. Still c/o overall fatigue. Had productive cough
   o/n. No fever/chills
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 20 mg/hour
   Diltiazem - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-4-23**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2196-4-24**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-4-24**] 06:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.2
   HR: 96 (96 - 121) bpm
   BP: 110/60(73) {88/45(58) - 129/76(82)} mmHg
   RR: 23 (18 - 27) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 154.4 kg (admission): 154.7 kg
   Height: 64 Inch
             Total In:
                                                                  1,151 mL
                                                                    340 mL
   PO:
                                                                    750 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    401 mL
                                                                    220 mL
   Blood products:
   Total out:
                                                                  2,229 mL
                                                                  1,170 mL
   Urine:
                                                                  2,229 mL
                                                                  1,170 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,078 mL
                                                                   -830 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.35/85.[**Numeric Identifier 128**]/68/44/16
   Physical Examination
   Gen: obese female in no acute distress. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple; JVP difficult to assess given patient's body habitus
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. harsh 3/6 systolic murmur heard best at the LUSB. [**4-8**]
   systolic murmur heard also at the apex. No thrills, lifts. No S3 or
   S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. scattered crackles bibasilar and
   faint expiratory wheezes.
   Abd: obese, Soft, NTND. No HSM or tenderness.  No abdominal bruits.
   Ext: No c/c. Trace edema
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   139 13mEq/L
   142 K/uL
   8.5 g/dL
   126 mg/dL
   1.2 mg/dL
   45 mEq/L
   4.5 mEq/L
   23 mg/dL
   91 mEq/L
   29 %
   3.8 K/uL
        [image002.jpg]
   [**4-24**] WBC3.8 HCT 29  PLT 142  Na 139 K 4.7 CL 91 HCO3 45 BUN 23 Cr 1.2
   Glucose 160 Ca 8.6 Mg 1.9 P 5.6
                             [**2196-4-23**]  06:03 AM
                             [**2196-4-23**]  11:03 AM
                             [**2196-4-23**]  03:01 PM
   WBC
   4.5
   Hct
   28.6
   Plt
   166
   Cr
   1.0
   1.1
   TCO2
   49
   Glucose
   95
   126
   Other labs: PT / PTT / INR:13.8/26.8/1.2, Albumin:3.6 g/dL, Ca++:8.3
   mg/dL, Mg++:2.1 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
   63yo female with multiple medical problems including morbid obesity,
   obstructive sleep apnea, and COPD on 3L home O2 was admitted from the
   ED with shortness of breath likely related to CHF exacerbation, atrial
   fibrillation with RVR, and chronic lung disease.
   Shortness of Breath
   Etiology of her shortness of breath is most likely related to CHF
   exacerbation worsened with her afib with RVR and COPD exacerbation.
   Additional factors likely worsening this are obesity hypoventilation,
   obstructive sleep apnea, and pulmonary hypertension. Patient
s CHF will
   continue to be difficult to control with paroxysmal atrial fibrillation
   and would benefit from TEE / cardioversion to maintain sinus rhythm.
   Patient will need to be anticoagulated to undergo TEE and
   cardioversion; however she has not been a candidate for anticoagulation
   in the past due to prior episodes of melena. She has not undergone EGD
   or colonoscopy in the past due to difficulty tolerating procedure in
   the setting of multiple pulmonary comorbidities and morbid obesity.
   - continue to diurese her and aim for being 1.5-2L negative today with
   lasix gtt for closer monitoring; decrease I/O goal if significant
   creatinine bump in pm (increased from 1 to 1.2 last 24 hours) or
   worsening alkalosis
   - monitor [**Hospital1 **] lytes
   - continue rate control with diltiazem and convert to long acting
   diltiazem 360
   - wean O2 as tolerated and would aim for O2 sat > 92-94%, currently on
   4L but baseline 3L
   - continue steroid burst with azithro for COPD exacerbation
   - repeat sputum cx
   - see below for plan for afib with RVR
   Atrial Fibrillation with RVR
   Patient has elevated heart rate and this is certainly contributing to
   her worsened diastolic CHF. HR improved with diltiazem gtt last 24
   hours. She has not been a candidate for anticoagulation in the past due
   to previous GI bleeds. According to GI, she has been unable to tolerate
   a colonoscopy or EGD in the past.
   - convert to PO diltiazem 360mg PO daily
   - continue aspirin for anticoagulation
   - follow-up with GI re EGD/[**Last Name (un) **] on Monday to assess for evidence of
   active bleeding or ulcers
   - if no evidence of active bleeding, will plan to start anticoagulation
   both in preparation for possibleTEE / cardioversion as well as for
   long-term anticoagulation in the setting of afib
   - ECG this am
   COPD
   Patient has a history of COPD and is on 3L home O2.
   - continue home regimen of spiriva, fluticasone-salmeterol,
   montelukast, theophylline, and [**Doctor First Name **]
   - continue steroids and azithromycin since symptoms did not improve
   much with diuresis
   - discontinued theophylline for now due to concern for multiple drug
   interactions and increase xopenex and Atrovent nebulizer treatments
   Hypertension
   Patient has a history of hypertension in the past, although she is
   currently normotensive/borderline hypotensive. Etiology of her
   hypotension is unclear, although likely related to her atrial
   fibrillation. BP stable overnight. MAPs currently in 70s.
   - hold antihypertensive agents (lisinopril 10) for now
   - continue rate control with diltiazem and transition to diltiazem
   360mg daily
   Anemia
   Stable
   - continue iron supplementation
   Hyperglycemia:
   Patient does not carry a diagnosis of diabetes but has elevated blood
   sugars on steroids. Will need close monitoring of blood sugars while on
   steroids.
   - HISS
   ICU Care
   Nutrition: low sodium diet
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2196-4-23**] 09:00 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:  not indicated
   Comments:
   Communication:  Comments:  Patient
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   feels slightly better, less dyspneic today
   24 Hour Events:
 SPUTUM CULTURE - At [**2196-4-23**] 11:00 AM
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Diltiazem - 15 mg/hour
   Furosemide (Lasix) - 20 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-4-23**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2196-4-24**] 07:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-4-24**] 10:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 94 (87 - 119) bpm
   BP: 113/51(66) {88/45(58) - 129/76(82)} mmHg
   RR: 28 (18 - 28) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 154.1 kg (admission): 154.7 kg
   Height: 64 Inch
             Total In:
                                                                  1,151 mL
                                                                    728 mL
   PO:
                                                                    750 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    401 mL
                                                                    368 mL
   Blood products:
   Total out:
                                                                  2,229 mL
                                                                  2,055 mL
   Urine:
                                                                  2,229 mL
                                                                  2,055 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,078 mL
                                                                 -1,327 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.35/85.[**Numeric Identifier 128**]/68/45/16
   Physical Examination
   Cardiovascular: JVD to jaw
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.7 g/dL
   142 K/uL
   160 mg/dL
   1.2 mg/dL
   45 mEq/L
   4.7 mEq/L
   23 mg/dL
   91 mEq/L
   139 mEq/L
   29.0 %
   3.8 K/uL
        [image002.jpg]
                             [**2196-4-23**]  06:03 AM
                             [**2196-4-23**]  11:03 AM
                             [**2196-4-23**]  03:01 PM
                             [**2196-4-24**]  05:48 AM
   WBC
   4.5
   3.8
   Hct
   28.6
   29.0
   Plt
   166
   142
   Cr
   1.0
   1.1
   1.2
   TCO2
   49
   Glucose
   95
   126
   160
   Other labs: PT / PTT / INR:13.7/25.6/1.2, Albumin:3.6 g/dL, Ca++:8.6
   mg/dL, Mg++:1.9 mg/dL, PO4:5.6 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
   - rate control better on dilt gtt
   - will start heparin today, as GI consult tells us that she is NOT a
   candidate for EGD/colonoscopy (attempted in the past/failed)
   - if has recurrent bleeding despite GI prophylaxis, will have to use
   ASA 325 mg/day alone for thromboprophylaxis, as opposed to warfarin
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   - antibiotics, steroid burst
   - inhalers
   - theophylline d/c'd
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - markedly volume overloaded
   - continue diuresis with IV Lasix to I/O: -2 L/24 hours
   - rate control of AF will help
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2196-4-23**] 09:00 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 404**], MD
   on:[**2196-4-24**] 10:18 ------

2196-04-25 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2196-4-24**] 11:20 AM
 PICC LINE - START [**2196-4-24**] 01:00 PM
   - Refusing endoscopy. Anesthesia spoke with pt about possibility of
   needing intubation if endoscopy is done. Pt deferring on decision for
   now.
   - Dilt changed from gtt to PO, also gave add'l 30mg PO once overnight
   for HR 110
   - PICC placed
   - Got chlorothiazide 250mg once for improved diuresis.
   - Still requiring increased O2 (4L NC).
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2196-4-24**] 08:12 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2196-4-24**] 07:30 AM
   Pantoprazole (Protonix) - [**2196-4-24**] 08:12 PM
   Heparin Sodium - [**2196-4-24**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-4-25**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.9
C (98.4
   HR: 105 (87 - 117) bpm
   BP: 123/70(83) {74/44(57) - 131/76(83)} mmHg
   RR: 22 (20 - 29) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 154.1 kg (admission): 154.7 kg
   Height: 64 Inch
             Total In:
                                                                  1,495 mL
                                                                    170 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    895 mL
                                                                    170 mL
   Blood products:
   Total out:
                                                                  5,035 mL
                                                                  1,780 mL
   Urine:
                                                                  5,035 mL
                                                                  1,780 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,540 mL
                                                                 -1,610 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///48/
   Physical Examination
   Gen: obese female in no acute distress. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple; JVP difficult to assess given patient's body habitus
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. harsh 3/6 systolic murmur heard best at the LUSB. [**4-8**]
   systolic murmur heard also at the apex. No thrills, lifts. No S3 or
   S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. scattered crackles bibasilar and
   faint expiratory wheezes.
   Abd: obese, Soft, NTND. No HSM or tenderness.  No abdominal bruits.
   Ext: No c/c. Trace edema
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   142 K/uL
   8.7 g/dL
   98 mg/dL
   1.0 mg/dL
   48 mEq/L
   4.0 mEq/L
   27 mg/dL
   90 mEq/L
   141 mEq/L
   29.0 %
   3.8 K/uL
        [image002.jpg]
                             [**2196-4-23**]  06:03 AM
                             [**2196-4-23**]  11:03 AM
                             [**2196-4-23**]  03:01 PM
                             [**2196-4-24**]  05:48 AM
                             [**2196-4-24**]  04:07 PM
   WBC
   4.5
   3.8
   Hct
   28.6
   29.0
   Plt
   166
   142
   Cr
   1.0
   1.1
   1.2
   1.0
   TCO2
   49
   Glucose
   95
   126
   160
   98
   Other labs: PT / PTT / INR:13.7/59.1/1.2, Albumin:3.6 g/dL, Ca++:8.4
   mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   63yo female with multiple medical problems including morbid obesity,
   obstructive sleep apnea, and COPD on 3L home O2 was admitted from the
   ED with shortness of breath likely related to CHF exacerbation, atrial
   fibrillation with RVR, and chronic lung disease.
   Shortness of Breath
   Etiology of her shortness of breath is most likely related to CHF
   exacerbation worsened with her afib with RVR and COPD exacerbation.
   Additional factors likely worsening this are obesity hypoventilation,
   obstructive sleep apnea, and pulmonary hypertension
   - continue to diurese her and aim for being 1.5-2L negative today with
   lasix gtt .  Add chlorthiazide as needed.
   - monitor [**Hospital1 **] lytes
   - continue steroid burst with azithro for COPD exacerbation
   - repeat sputum cx
   - see below for plan for afib with RVR
   Atrial Fibrillation with RVR
   Patient has elevated heart rate and this is certainly contributing to
   her worsened diastolic CHF. HR controlled fairly with PO dilt.  She has
   not been a candidate for anticoagulation in the past due to previous GI
   bleeds. According to GI, she has been unable to tolerate a colonoscopy
   or EGD in the past.
   - PO diltiazem 360mg PO daily
   - Heparin bridge to coumadin (start tomorrow)
   - follow-up with GI re EGD/[**Last Name (un) **] on Monday to assess for evidence of
   active bleeding or ulcers
   - depending on GI w/u, possible TEE/CV if she has no active GIB
   COPD
   Patient has a history of COPD and is on 3L home O2.
   - continue home regimen of spiriva, fluticasone-salmeterol,
   montelukast, theophylline, and [**Doctor First Name **]
   - continue steroids and azithromycin since symptoms did not improve
   much with diuresis
   - discontinued theophylline for now due to concern for multiple drug
   interactions and increase xopenex and Atrovent nebulizer treatments
   Hypertension
   Patient has a history of hypertension in the past, although she is
   currently normotensive/borderline hypotensive. Etiology of her
   hypotension is unclear, although likely related to her atrial
   fibrillation.
   - hold antihypertensive agents (lisinopril 10) for now
   - continue rate control with diltiazem
   Anemia
   Stable
   - continue iron supplementation
   Hyperglycemia:
   Patient does not carry a diagnosis of diabetes but has elevated blood
   sugars on steroids. Will need close monitoring of blood sugars while on
   steroids.
   - HISS
   ICU Care
   Nutrition: low sodium diet
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2196-4-23**] 09:00 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:  not indicated
   Comments:
   Communication:  Comments:  Patient
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   Chief Complaint: Feels much better, breathing is "easier"
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2196-4-24**] 11:20 AM
 PICC LINE - START [**2196-4-24**] 01:00 PM
   History obtained from Patient
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2196-4-24**] 08:12 PM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2196-4-24**] 08:12 PM
   Heparin Sodium - [**2196-4-24**] 10:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea, Wheeze
   Flowsheet Data as of  [**2196-4-25**] 10:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.7
C (98
   HR: 105 (92 - 117) bpm
   BP: 133/90(99) {74/44(57) - 144/90(99)} mmHg
   RR: 18 (18 - 29) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 150.8 kg (admission): 154.7 kg
   Height: 64 Inch
             Total In:
                                                                  1,495 mL
                                                                    275 mL
   PO:
                                                                    600 mL
             TF:
   IVF:
                                                                    895 mL
                                                                    275 mL
   Blood products:
   Total out:
                                                                  5,035 mL
                                                                  2,420 mL
   Urine:
                                                                  5,035 mL
                                                                  2,420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,540 mL
                                                                 -2,145 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ///48/
   Physical Examination
   General Appearance: Overweight / Obese, Anxious
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : [**2-5**] way up B, Wheezes :
   bilateral)
   Abdominal: Soft, Obese
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   121 K/uL
   163 mg/dL
   1.1 mg/dL
   48 mEq/L
   3.9 mEq/L
   30 mg/dL
   87 mEq/L
   143 mEq/L
   26.5 %
   2.3 K/uL
        [image002.jpg]
                             [**2196-4-23**]  06:03 AM
                             [**2196-4-23**]  11:03 AM
                             [**2196-4-23**]  03:01 PM
                             [**2196-4-24**]  05:48 AM
                             [**2196-4-24**]  04:07 PM
                             [**2196-4-25**]  06:17 AM
   WBC
   4.5
   3.8
   2.3
   Hct
   28.6
   29.0
   26.5
   Plt
   166
   142
   121
   Cr
   1.0
   1.1
   1.2
   1.0
   1.1
   TCO2
   49
   Glucose
   95
   126
   160
   98
   163
   Other labs: PT / PTT / INR:14.2/83.2/1.2, Albumin:3.6 g/dL, Ca++:8.5
   mg/dL, Mg++:2.0 mg/dL, PO4:5.0 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB): rate control better, on heparin, no
   evidence of bleeding
   - stop aspirin
   - continue PO diltiazem
   - warfarin in the long term
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION: improved
   - continue inhalers, azithromycin, prednisone burst
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC: improved
   - continue brisk diuresis
 H/O GI BLEEDING
   - continue discussions re: EGD/colonoscopy
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2196-4-22**] 05:11 PM
   PICC Line - [**2196-4-24**] 01:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 404**], MD
   on:[**2196-4-25**] 10:19 ------

2196-04-26 05:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Hct 26.5 at 6a-->25 at 2p-->23.5 9p despite diuresis, xfuse 1 unit
   PRBCs
   -diuresed -3L; Lasix gtt turned down to 15, still 250-300cc UOP per
   hour
   S: Pt reports fatigue, unchanged from prior. SOB improved each day.
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2196-4-24**] 08:12 PM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-4-26**] 05:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.5
C (97.7
   HR: 88 (88 - 114) bpm
   BP: 123/61(77) {103/38(56) - 144/90(99)} mmHg
   RR: 21 (18 - 37) insp/min
   SpO2: 89%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 150.8 kg (admission): 154.7 kg
   Height: 64 Inch
           Total In:
                                                                  1,502 mL
                                                                    365 mL
   PO:
                                                                  1,020 mL
           TF:
   IVF:
                                                                    482 mL
                                                                     88 mL
   Blood products:
   277 mL
   Total out:
                                                                  4,990 mL
                                                                  1,210 mL
   Urine:
                                                                  4,990 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,488 mL
                                                                   -845 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 89%
   ABG: ////
   Physical Examination
   Gen: obese female in no acute distress. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple; JVP 10-12cm
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, faint S2. harsh 3/6 systolic murmur heard best at the LUSB.
   3/6 systolic murmur heard also at the apex. No thrills, lifts. No S3 or
   S4.
   Chest: No chest wall deformities, scoliosis or kyphosis. Resp were
   unlabored, no accessory muscle use. CTA anteriorly
   Abd: obese, Soft, NTND. No HSM or tenderness.  .
   Ext: No c/c. Trace-1+  edema
   Skin:+ stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   137 K/uL
   8.0 g/dL
   102 mg/dL
   1.1 mg/dL
   48 mEq/L
   3.4 mEq/L
   33 mg/dL
   86 mEq/L
   142 mEq/L
   23.5 %
   3.6 K/uL
        [image002.jpg]
                             [**2196-4-23**]  06:03 AM
                             [**2196-4-23**]  11:03 AM
                             [**2196-4-23**]  03:01 PM
                             [**2196-4-24**]  05:48 AM
                             [**2196-4-24**]  04:07 PM
                             [**2196-4-25**]  06:17 AM
                             [**2196-4-25**]  02:23 PM
                             [**2196-4-25**]  09:07 PM
   WBC
   4.5
   3.8
   2.3
   3.6
   Hct
   28.6
   29.0
   26.5
   25.0
   23.5
   Plt
   166
   142
   121
   137
   Cr
   1.0
   1.1
   1.2
   1.0
   1.1
   1.1
   TCO2
   49
   Glucose
   95
   126
   160
   98
   163
   102
   Other labs: PT / PTT / INR:14.2/64.5/1.2, Differential-Neuts:76.4 %,
   Lymph:19.3 %, Mono:3.8 %, Eos:0.5 %, Albumin:3.6 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   63yo female with multiple medical problems including morbid obesity,
   obstructive sleep apnea, and COPD on 3L home O2 was admitted from the
   ED with shortness of breath likely related to CHF exacerbation, atrial
   fibrillation with RVR, and chronic lung disease.
   Shortness of Breath: acute diastolic heart failure and COPD
   exacerbation
   Etiology of her shortness of breath is most likely related to CHF
   exacerbation worsened with her afib with RVR and COPD exacerbation.
   Additional factors likely worsening this are obesity hypoventilation,
   obstructive sleep apnea, and pulmonary hypertension. Symtpoms much
   improved compared with admission
   - continue to diurese her and aim 2L negative today with lasix gtt .
   Add chlorothiazide as needed.
   - continue steroid taper with azithro for COPD exacerbation
   - see below for plan for afib with RVR
   - CPAP at night (unsure of settings at home)
   - ABG prn to assess acid base status
   Atrial Fibrillation with RVR
   Patient has elevated heart rate and this is certainly contributing to
   her worsened diastolic CHF. HR controlled fairly with PO dilt.  She has
   not been a candidate for anticoagulation in the past due to previous GI
   bleeds. According to GI, she has been unable to tolerate a colonoscopy
   or EGD in the past.
   - start digoxin for rate control since holding off on beta blockers
   secondary to reactive airway disease
   - PO diltiazem 360mg PO daily for rate control
   - Patient failed heparin trial [**3-7**] dropping hct. discontinue Heparin
   given drop in HCT
   - blood transfusion this AM
   - start heparin 325mg daily
   - follow-up with GI re EGD/[**Last Name (un) **] given likely active low grade bleeding
   - depending on GI w/u, possible TEE/CV if she has no active GIB
   COPD EXacerbation
   Patient has a history of COPD and is on 3L home O2.
   - continue home regimen of spiriva, fluticasone-salmeterol,
   montelukast, theophylline, and [**Doctor First Name **]
   - continue steroids and azithromycin since symptoms did not improve
   much with diuresis
   - discontinued theophylline for now due to concern for multiple drug
   interactions and increase xopenex and Atrovent nebulizer treatments
   Hypertension
   Patient has a history of hypertension in the past, although she is
   currently normotensive.
   - hold antihypertensive agents (lisinopril 10) for now
   - continue rate control with diltiazem
   Anemia/history of GIB
   HCt trended down to 23 on anticoagulation so transfused 1 unit
   overnight with bump of 2 points post-transfusion. No frank melena or
   GIB. Pt denies BM since admission.
   - blood transfusion this AM
   - monitor HCT q12
   - guiaiac all stool
   - continue iron supplementation
   - maintain PIVs, PICC, active type and screen, PPI [**Hospital1 **]
   Hyperglycemia:
   Patient does not carry a diagnosis of diabetes but has elevated blood
   sugars on steroids. Will need close monitoring of blood sugars while on
   steroids.
   - HISS
   ICU Care
   Nutrition: low sodium diet
   Glycemic Control:  HISS
   Lines:
   20 Gauge - [**2196-4-23**] 09:00 AM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: not indicated
   VAP:  not indicated
   Comments:
   Communication:  Comments:  Patient
   Code status: Full code
   Disposition: ICU for now
   ------ Protected Section ------
   Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   as per ICU resident note
   History obtained from Patient
   Allergies:
   Bactrim (Oral) (Sulfamethoxazole/Trimethoprim)
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2196-4-24**] 08:12 PM
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2196-4-26**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.6
C (97.9
   HR: 111 (88 - 114) bpm
   BP: 119/61(68) {103/41(62) - 137/73(84)} mmHg
   RR: 23 (20 - 37) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 150.8 kg (admission): 154.7 kg
   Height: 64 Inch
           Total In:
                                                                  1,882 mL
                                                                  1,121 mL
   PO:
                                                                  1,020 mL
                                                                    480 mL
   TF:
   IVF:
                                                                    862 mL
                                                                    364 mL
   Blood products:
   277 mL
   Total out:
                                                                  4,990 mL
                                                                  2,990 mL
   Urine:
                                                                  4,990 mL
                                                                  2,990 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,108 mL
                                                                 -1,869 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   116 K/uL
   147 mg/dL
   0.9 mg/dL
   48 mEq/L
   3.8 mEq/L
   35 mg/dL
   86 mEq/L
   144 mEq/L
   25.2 %
   2.3 K/uL
        [image002.jpg]
                             [**2196-4-23**]  06:03 AM
                             [**2196-4-23**]  11:03 AM
                             [**2196-4-23**]  03:01 PM
                             [**2196-4-24**]  05:48 AM
                             [**2196-4-24**]  04:07 PM
                             [**2196-4-25**]  06:17 AM
                             [**2196-4-25**]  02:23 PM
                             [**2196-4-25**]  09:07 PM
                             [**2196-4-26**]  05:39 AM
   WBC
   4.5
   3.8
   2.3
   3.6
   2.3
   Hct
   28.6
   29.0
   26.5
   25.0
   23.5
   25.2
   Plt
   166
   142
   121
   137
   116
   Cr
   1.0
   1.1
   1.2
   1.0
   1.1
   1.1
   0.9
   TCO2
   49
   Glucose
   95
   126
   160
   98
   163
   102
   147
   Other labs: PT / PTT / INR:14.5/81.8/1.3, Differential-Neuts:76.4 %,
   Lymph:19.3 %, Mono:3.8 %, Eos:0.5 %, Albumin:3.6 g/dL, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB): did not tolerate a
   systemic anticoagulation challenge
   - will stop heparin, resume ASA 325 mg/day
   - strongly consider a repeat attempt at an EGD as an outpatient
 ATRIAL FIBRILLATION (AFIB)
   - better rate controlled
   - will add digoxin today
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   - improved
 HEART FAILURE (CHF), DIASTOLIC, ACUTE ON CHRONIC
   - continue diuresis
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2196-4-24**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 404**], MD
   on:[**2196-4-26**] 12:15 ------